2192-11-23 08:56:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2192-11-22**] 10:00 AM
   SBT this AM
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-11-22**] 02:00 PM
   Vancomycin - [**2192-11-22**] 08:00 PM
   Linezolid - [**2192-11-23**] 06:43 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2192-11-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-23**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 94 (89 - 108) bpm
   BP: 126/71(87) {112/58(75) - 148/87(106)} mmHg
   RR: 19 (14 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 136.8 kg (admission): 163 kg
   Height: 73 Inch
   CVP: 11 (3 - 15)mmHg
   Total In:
                                                                  3,283 mL
                                                                  1,011 mL
   PO:
   TF:
   IVF:
                                                                  3,033 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    450 mL
   Urine:
                                                                  1,870 mL
                                                                    450 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (487 - 608) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 0 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.35/39/101/27/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: left ptosis
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely to
   deep palp, ant abd wound c/d/i
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to verbal stim, follows commands, good left hand
   squeeze
   Labs / Radiology
   7.3 g/dL
   328 K/uL
   76 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.4 mEq/L
   57 mg/dL
   111 mEq/L
   148 mEq/L
   22.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2192-11-21**]  05:36 PM
                             [**2192-11-21**]  07:46 PM
                             [**2192-11-21**]  11:32 PM
                             [**2192-11-22**]  02:01 AM
                             [**2192-11-22**]  02:15 AM
                             [**2192-11-22**]  08:00 AM
                             [**2192-11-22**]  01:13 PM
                             [**2192-11-22**]  03:09 PM
                             [**2192-11-22**]  06:32 PM
                            [**2192-11-23**]  03:55 AM
   WBC
   11.1
   9.4
   Hct
   26.3
   22.9
   Plt
   363
   328
   Cr
   1.8
   1.3
   TCO2
   29
   27
   26
   31
   26
   29
   22
   Glucose
   121
   124
   100
   102
   76
   Other labs: PT / PTT / INR:39.3/38.6/4.3, CK / CKMB /
   Troponin-T:619/3/0.16, ALT / AST:18/40, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:112/39, Differential-Neuts:79.3 %, Lymph:15.4 %,
   Mono:3.6 %, Eos:1.3 %, Fibrinogen:585 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   55 yr old man with complicated 2 month course for bilateral thalamic
   CVA then cecal perforation, ostomy, abd abscess s/p drainage, who was
   on the floor on [**11-20**] and had follow up abd CT- that evening resp
   distress, intubation, Vfib arrest, new Dx of MRSA PNA
   1.       Respiratory Arrest: DDX aspiration PNA versus MRSA PNA. We
   will RX with Linezolid. Weaning vent as tolerated- may need quick
   bronch to clear out LLL pre bronch.
   2.       Hemodynamics after Cardiac Arrest: stable MAPs, is
   significantly positive but acceptable CVP and oxygenation.         No
   Echo yet done- will check post arrest
   3.       Abd Abscess with VRE
improving with drainge alone Rx with
   Linezolid,
   4.       UTI- Enterococcus, Linezolid x 14 days, funguria
 change
   foley.
   5.       SMV thrombosis and Factor V- coumadin
   6.        Anemia: low HCT
 could be dilutional but also with rising
   inr- repeat and Tx for less than 25
   7.       HyperNa- free water replete Iv and po
   ICU Care
   Nutrition: TF via dophiff
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-11-21**] 08:45 AM
   Multi Lumen - [**2192-11-21**] 04:30 PM
   Prophylaxis:
   DVT: coumadin
 holding and rising inr after quinolone
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Comments:
   Communication:  update sister and
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-11-24 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2192-11-23**] 10:25 AM
 ARTERIAL LINE - STOP [**2192-11-23**] 08:30 PM
 BLOOD CULTURED - At [**2192-11-23**] 09:00 PM
   EVENTS:
   ECHO
   R FEM line d/c'd
   PM Na was 148, increased the FW flushes from 150 to 200cc q4.
   HCTs 23.9 then 22.7, will transfuse tomorrow (issues w/ consent from
   sister). HCT stable, no acute bleeding.
   ID Recs: monotherapy with Linezolid 600mg Q12 is appropriate coverage
   of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] and MRSA Sputum.
   Urine output good 100cc/hr for most of afternoon/evening
   INFO:
   Nutrition recs were updated.
   CRP,SED rate both highly elevated, ? osteo at coccyx? plain film
   ordered from am rounds
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-11-22**] 02:00 PM
   Vancomycin - [**2192-11-23**] 08:43 AM
   Linezolid - [**2192-11-23**] 06:01 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2192-11-23**] 06:15 PM
   Famotidine (Pepcid) - [**2192-11-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-24**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 93 (87 - 109) bpm
   BP: 91/49(58) {90/49(42) - 101/69(172)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 136.8 kg (admission): 163 kg
   Height: 73 Inch
    CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  2,528 mL
                                                                    786 mL
   PO:
   TF:
                                                                    258 mL
                                                                    238 mL
   IVF:
                                                                  1,300 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    360 mL
   Urine:
                                                                  1,450 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    828 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 937 (385 - 937) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.47/36/91.[**Numeric Identifier 96**]/27/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GEN: Obese Male, Intubated, Alert able to follow simple commands
   HEENT: Pupils 2-3mm Round and Reactive, Pt with difficulty looking
   superiorly bilaterally. Full ROM laterally.
   NECK: Obese, Right IJ C/D/I, No LAD
   RESP: Clear Anteriorly without obvious rales, rhonchi or wheezes.
   CARD: Distant Heart Sounds, No Murmurs or Rubs Appreciated
   ABD: Soft, RLQ surgical drain in place. Ostomy site C/D/I without
   erythema. 12cm  vertical wound from mid LLQ superiorly with good
   granulation and without purulence.
   EXTR: Obese, Trace edema in LLE. Heels without breakdown. L Fem A-Line
   C/D/I.
   NEURO: CNII intact. Limited gaze upward. Pt able to squeeze and move L
   hand, wiggle L toes. No movement or withdraw to pain in RUE or RLE.
   BACK: Stage III sacral decub without evidence for osteo on exam. Stage
   II ulcers inferiorly in the gluteal cleft.
   SKIN: Without rashes.
   Labs / Radiology
   321 K/uL
   6.7 g/dL
   91 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.2 mEq/L
   38 mg/dL
   111 mEq/L
   147 mEq/L
   22.3 %
   7.4 K/uL
        [image002.jpg]
   UA Tr leuk, mod blood, tr ket, few bacteria. Cx pending
   MRSA sputum [**11-21**] VRE urine [**11-21**] Blood cx [**11-21**], [**11-23**] NGTD
   ECHO: Very limited image quality. The left atrium is dilated. Left
   ventricular wall thicknesses are normal. The left ventricular cavity is
   unusually small. Due to suboptimal technical quality, a focal wall
   motion abnormality cannot be fully excluded. Left ventricular systolic
   function is hyperdynamic (EF>75%). Right ventricular chamber size and
   free wall motion are normal. The aortic valve is not well seen. There
   is no aortic valve stenosis. No aortic regurgitation is seen. The
   mitral valve leaflets are not well seen. Trivial mitral regurgitation
   is seen. There is a trivial/physiologic pericardial effusion. There is
   an anterior space which most likely represents a fat pad. There are no
   echocardiographic signs of tamponade.
                             [**2192-11-22**]  08:00 AM
                             [**2192-11-22**]  01:13 PM
                             [**2192-11-22**]  03:09 PM
                             [**2192-11-22**]  06:32 PM
                            [**2192-11-23**]  03:55 AM
                            [**2192-11-23**]  10:13 AM
                            [**2192-11-23**]  01:22 PM
                            [**2192-11-23**]  01:59 PM
                            [**2192-11-23**]  09:12 PM
                            [**2192-11-24**]  04:51 AM
   WBC
   9.4
   7.4
   Hct
   22.9
   23.9
   22.7
   22.3
   Plt
   328
   321
   Cr
   1.3
   1.1
   TCO2
   26
   29
   22
   29
   27
   Glucose
   100
   102
   76
   91
   Other labs: PT / PTT / INR:38.4/42.3/4.1, CK / CKMB /
   Troponin-T:619/3/0.16, ALT / AST:18/40, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:112/39, Differential-Neuts:79.3 %, Lymph:15.4 %,
   Mono:3.6 %, Eos:1.3 %, Fibrinogen:585 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   A/P: 55yoM with hx of morbid obesity, DMII, s/p Bilateral Thalamic and
   L Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess now 2 days S/P Cardiac Arrest [**3-17**] to acute hypoxic
   respiratory distress.
   .
   # Acute Hypoxemic Respiratory Failure: Pt with respiratory distress on
   [**11-20**] surrounding the time of CT Abd with contrast. LMS on CT also
   obliterated with secretions at this time. Resp failure likely [**3-17**] mucus
   plug vs. pneumonia (MRSA sputum). lIntubated morning of [**11-21**]. ABG have
   improved with good O2 sats on PS5 PEEP 5. Most recent RSBI 53. He will
   likely tolerate extubation given iomprovement in secretions last 24
   hours. He has not coughed much but seems like he would have adequate
   cough.
   - Extubate as tolerate
   - Treat PNA with Linezolid
   - NAC nebs and mucinex with chest PT for clearance of secretions
   .
   # Hemodynamics s/p Cardiac Arrest: Pt off pressoers with MAPs 77-86.
   Last EF 60% 8/4. Trop 0.16 on [**11-21**] in setting of cardiac arrest.
   Currently not on B-Blocker.
   - Cont ASA, Statin
   - Repeat TTE done with hyperdynamic LV, EF >75%. ? IHSS but prior echos
   not c/w this diagnosis
   - Adequate UOP, BP, maintaing MAP>65
   .
   # MRSA HCAP PNA: Sputum Culture from [**11-21**] 4+ Coag + Staph in patient
   with prior MRSA. Pt afebrile without leukocytosis.
   - Vanc/ Levaquin changed to Linezolid to optimize medical management
   for total of 8 days of treatment for PNA although will need linezolid
   longer for abd. Abscess and VRE
   - Linezolid. Per ID, no need for GNR coverage
   - MRSA precautions
   .
   # Intra-abdominal Abcess: In setting of recent intrabdominal surgeries.
   Culture + VRE. [**11-21**] CT Significant interval decrease with near complete
   resolution of abdominal fluid collection, still draining.
   - Linezolid 600mg IV q12 until 10-14 days after drain removed, abscess
   resolved per ID recs
   .
   # UTI: [**11-21**] Culture growing VRE in >100K colonies.
   - Would be covered by Linezolid since also treating intra-abdominal
   abcess
   .
   # SMV Thrombosis: As evident per prior CTA Abd. INR 4.1 in setting of
   recent Levaquin use.
   - Currently holding Coumadin
   - Daily monitoring of INR
   - No need for Vit K, FFP given no active bleeding
   .
   # Acute Renal Failure: Resolving. Cr today 1.1.  Trending UOP and CR
   which has improved over afternoon and evening after foley change.
   .
   # Wounds: Sacral Decub Stage 3, Ventral wound intact with good
   granulation.
   - Frequent checks
   - Wound nursing
   - Miconazole Power to Groin
   - ESR and CRp elevated and although nonspecific will consider osteo and
   plain films after extubationt o evaluate
   .
   # Bilateral Thalamic and L Cerebral Peduncle CVAs
   - Stable per most recent CT
   .
   # DMII: Historically extremely labile FS's.
   - Cont Humolog Insulin Sliding Scale with Lantus 45 units QAM, 55 units
   QPM
   - Will consult [**Last Name (un) 276**] for pt follow-up if tight glucose cannot be
   maintained.
   .
   # Sedation: Continue Weaned as extubated
   .
   # FEN: KVO/Replete PRN/ NPO, will get TF recs per Nutrition. Will
   recheck pm K since was repleted this am
   # Access: R IJ ([**11-20**])
   # PPx: Pneumoboots, H2 Blocker, supratherpaeutic INR
   # Full Code
   # Disp: MICU for now.
   # Communication: Sister [**Name (NI) 3373**], Daughter
   ICU [**Name2 (NI) **]
   Nutrition:
   Replete with Fiber (Full) - [**2192-11-23**] 03:01 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-11-21**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this this day I examined the patient and was present for the key
   portions of the services provided.  I have reviewed Dr [**Last Name (STitle) 5809**]
s note
   and agree with the findings and plan of care. I would only add or
   emphasize the following:  The patient was intubated in the setting of a
   cardiac arrest , presumably from hypoxia from mucus plugging.  He has
   been titrated down to minimal ventilatory support and has a clear CXR
   and good RSBI, such that we believe he should be given the chance at
   extubation.  He will need to be followed closely for pulmonary hygiene,
   encouraged to cough, and given mucolytics. His prior stroke may be
   contributing to his less than optimal ability to clear his secretions.
   He is on Linezolid  for a MRSA pneumonia, VRE UTI, and VRE abdominal
   wall abscess.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   40 min spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2192-11-24**] 16:34 ------

2192-11-25 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated 2pm
   Per sister, MS changes, requested stopped  pyridium or linezolid so
   stopped pyridium. ABG at that time 7.47/38/84/28.
   11pm, hypoglycemic to 30
s,  SBP 70s, responded to IVF. Transfused 2
   unit PRBC for HCT 20. Given 1.5L NS bolus and 4 amps of D50.
   Cardiac Enzymes unremarkable
   ECG, CXR grossly unchanged
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-11-22**] 02:00 PM
   Vancomycin - [**2192-11-23**] 08:43 AM
   Linezolid - [**2192-11-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2192-11-24**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No additional changes
   Flowsheet Data as of  [**2192-11-25**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 84 (79 - 92) bpm
   BP: 108/57(70) {77/37(47) - 121/71(81)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 136.8 kg (admission): 163 kg
   Height: 73 Inch
    CVP: 7 (1 - 13)mmHg
   Total In:
                                                                  4,358 mL
                                                                  1,498 mL
   PO:
   TF:
                                                                    454 mL
                                                                    155 mL
   IVF:
                                                                  2,409 mL
                                                                     93 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,352 mL
                                                                    400 mL
   Urine:
                                                                  1,102 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  3,006 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (498 - 574) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 36%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.47/38/84.[**Numeric Identifier 1625**]/24/3
   Ve: 10 L/min
   PaO2 / FiO2: 233
   Physical Examination
   GEN: Obese Male, Extubated, Alert able to follow simple commands, able
   to produce cough.
   HEENT: Pupils 2-3mm Round and Reactive, Pt with difficulty looking
   superiorly bilaterally..
   NECK: Obese, Right IJ C/D/I, No LAD
   RESP: Clear Anteriorly without obvious rales or wheezes.
   CARD: Distant Heart Sounds, No Murmurs or Rubs Appreciated
   ABD: Soft, RLQ surgical drain in place with small amounts of drainage.
   Ostomy site C/D/I without erythema. 12cm  vertical wound from mid LLQ
   superiorly with good granulation and without purulence.
   EXTR: Obese, Trace edema in LLE. Heels without breakdown. L Fem A-Line
   C/D/I.
   NEURO: CNII intact. Limited gaze upward. Pt able to squeeze and move L
   hand, wiggle L toes. No movement or withdraw to pain in RUE or RLE.
   BACK: Per nursing: Increased drainage from sacral decub.
   SKIN: Without rashes.
   Labs / Radiology
   309 K/uL
   8.2 g/dL
   77 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   24 mg/dL
   114 mEq/L
   146 mEq/L
   27.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2192-11-22**]  06:32 PM
                            [**2192-11-23**]  03:55 AM
                            [**2192-11-23**]  10:13 AM
                            [**2192-11-23**]  01:22 PM
                            [**2192-11-23**]  01:59 PM
                            [**2192-11-23**]  09:12 PM
                            [**2192-11-24**]  04:51 AM
                            [**2192-11-24**]  06:53 PM
                            [**2192-11-24**]  11:16 PM
                            [**2192-11-25**]  03:26 AM
   WBC
   9.4
   7.4
   8.4
   Hct
   22.9
   23.9
   22.7
   22.3
   20.2
   27.1
   Plt
   328
   321
   309
   Cr
   1.3
   1.1
   0.8
   TropT
   0.04
   TCO2
   22
   29
   27
   28
   Glucose
   76
   91
   77
   Other labs: PT / PTT / INR:36.3/38.4/3.9, CK / CKMB /
   Troponin-T:166/2/0.04, ALT / AST:18/40, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:112/39, Differential-Neuts:79.3 %, Lymph:15.4 %,
   Mono:3.6 %, Eos:1.3 %, Fibrinogen:585 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   A/P: 55yoM with morbid obesity, DMII, s/p Bilateral Thalamic and L
   Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess now 4 days S/P cardiac arrest [**3-17**] to acute hypoxic
   respiratory distress.
   .
   # Acute Hypoxemic Respiratory Failure: Extubated overnight. Now sat
   well on scoop mask.  Keeping sputum viscosity decreased with mucolytics
   and treating underlying MRSA PNA.
   - Cont Mucolytics, Nebs
   - Treat PNA with Linezolid, duration to depend on length for treatment
   of intra-abdominal abcess
   - Chest PT for clearance of secretions
   .
   # MRSA HCAP PNA: Pt afebrile without leukocytosis. Pt now bringing up
   sputum with adequate cough.
   - Cont Linezolid and will discuss with I.D. for course.
   - MRSA precautions
   .
   # DMII: FS bottomed out to 30s at 11pm in setting of decreased tube
   feeds and maintaining ISS.  Historically extremely labile FS's.
   - Cont Humolog Insulin Sliding Scale with Lantus 40 units QAM, 50 units
   QPM
   - Will consult [**Last Name (un) 276**] for pt follow-up
   .
   # Intra-abdominal Abcess: Continues to drain, but with smaller amounts.
   - Cont  Linezolid 600mg IV q12 until 10-14 days after drain removed,
   abscess resolved per ID recs
   - Will touch base with surgery today regarding duration of surgical
   drain
   .
   # UTI: [**11-21**] Culture growing VRE in >100K colonies.
   - Covering with Linezolid while treating intra-abdominal abcess
   .
   # SMV Thrombosis: INR 3.9.  In setting of recent Levaquin, now
   Linezolid. No signs of active bleeding.
   - Holding Coumadin with goal of [**3-18**]
   - Daily monitoring of INR
   - No need for Vit K, FFP given no active bleeding
   .
   # Wounds: Sacral Decub Stage 3-4 with increased drainage., Ventral
   wound intact with good granulation.
   - Frequent checks
   - Wound nursing
   - Miconazole Power to Groin
   - ESR and CRP elevated and although nonspecific will consider osteo and
   plain films
   - Will likely need both plastics consult and/or further imaging of
   sacral decub following d/c from unit.
   .
   # Bilateral Thalamic and L Cerebral Peduncle CVAs
   - Stable per most recent CT
   .
   # FEN: KVO/Replete PRN, 1.5L D5W yesterday for hypernatremia/ NPO, will
   get TF recs per Nutrition.
   # Access: R IJ ([**11-20**])
   # PPx: Pneumoboots, H2 Blocker, Supratherpaeutic INR
   # Full Code
   # Disp: MICU with potential call-out tomorrow.
   # Communication: Sister [**Name (NI) 3373**], Daughter
   ICU [**Name2 (NI) **]
   Nutrition:
   Replete with Fiber (Full) - [**2192-11-24**] 03:58 PM 30 mL/hour
   Glycemic Control:
   Multi Lumen - [**2192-11-21**] 04:30 PM
   Code status: Full code
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 5951**]
s note above and I
   agree with the findings and plan of care.  I would add that Mr [**Known lastname 3971**]
   has been successfully extubated, but with the help of intensive
   pulmonary hygiene efforts he is coughing up purulent sputum which will
   be cultured today.  We will try to keep him hydrated to improve mucus
   viscosity.  He is awake and  alert but confused, which is far different
   from his post CVA baseline.  This is likely due to his CNS anoxia from
   his arrest, his infections, and his episode of  hypoglycemia and
   hypotension last night.  We will attempt to smooth out glucose control
   and keep his BP and Sats stable, but it may take time for his mentation
   to significantly improve.  For now he needs ICU level of care.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   30 spent in the care of this critically ill patient and 20 min spent in
   conversation and counseling with his sister.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2192-11-25**] 14:05 ------

2192-11-26 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increased drainage from sacral wound
   Pt seen by surgery overnight.
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-11-23**] 08:43 AM
   Linezolid - [**2192-11-25**] 04:11 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2192-11-26**] 04:06 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes
   Flowsheet Data as of  [**2192-11-26**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 90 (80 - 94) bpm
   BP: 123/56(73) {93/56(70) - 129/75(84)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 136.8 kg (admission): 163 kg
   Height: 73 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  3,711 mL
                                                                    406 mL
   PO:
   TF:
                                                                    960 mL
                                                                    356 mL
   IVF:
                                                                    751 mL
                                                                     50 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,905 mL
                                                                    490 mL
   Urine:
                                                                  1,155 mL
                                                                    240 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    200 mL
   Drains:
                                                                     50 mL
   Balance:
                                                                  1,806 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: NAD, Alert to self, and names of daughter and sister, not to
   location, time or year
   HEENT: No changes in exam. Lack of upward gaze. PERRL
   NECK: Obese. R IJ C/D/I
   Respt: Clear Anteriorly, with occasional bronchial sounds
   Cards: Distant HS
   Abd: Soft, Obese, BS+., Ventral Wound c/d/I, ostomy c/d/i
   Back: Sacral Decub with perforation through wound. ? to bone
   Extr: Obese [**2-15**]+ edema.
   Labs / Radiology
   311 K/uL
   8.6 g/dL
   115 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   19 mg/dL
   112 mEq/L
   142 mEq/L
   27.9 %
   8.2 K/uL
        [image002.jpg]
                            [**2192-11-23**]  10:13 AM
                            [**2192-11-23**]  01:22 PM
                            [**2192-11-23**]  01:59 PM
                            [**2192-11-23**]  09:12 PM
                            [**2192-11-24**]  04:51 AM
                            [**2192-11-24**]  06:53 PM
                            [**2192-11-24**]  11:16 PM
                            [**2192-11-25**]  03:26 AM
                            [**2192-11-25**]  06:15 PM
                            [**2192-11-26**]  04:23 AM
   WBC
   7.4
   8.4
   8.2
   Hct
   23.9
   22.7
   22.3
   20.2
   27.1
   27.9
   Plt
   [**Telephone/Fax (3) 5960**]
   Cr
   1.1
   0.8
   0.8
   0.8
   TropT
   0.04
   TCO2
   29
   27
   28
   Glucose
   91
   77
   106
   115
   Other labs: PT / PTT / INR:36.3/38.4/3.9, CK / CKMB /
   Troponin-T:166/2/0.04, ALT / AST:18/40, Alk Phos / T Bili:69/0.2,
   Amylase / Lipase:112/39, Differential-Neuts:79.3 %, Lymph:15.4 %,
   Mono:3.6 %, Eos:1.3 %, Fibrinogen:585 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   A/P: 55yoM with morbid obesity, DMII, s/p Bilateral Thalamic and L
   Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess now 4 days S/P cardiac arrest [**3-17**] to acute hypoxic
   respiratory distress.
   .
   # Acute Hypoxemic Respiratory Failure: Extubated. Now sat
ing well on
   2L NC.  Keeping sputum viscosity decreased with mucolytics and treating
   underlying MRSA PNA.
   - Cont Mucolytics, Nebs
   - Treat MRSA Tracheo-Bronchitis with Linezolid, duration to depend on
   length for treatment of intra-abdominal abcess
   - Chest PT for clearance of secretions
   .
   # MRSA Tracheo-Bronchitis: More likely now than HAP given lack of
   radiographic evidence. Pt afebrile without leukocytosis. Pt now
   bringing up sputum with adequate cough.
   - Cont Linezolid and will discuss with I.D. for course.
   - MRSA precautions
   .
   # DMII: FS bottomed out to 80s overnight in setting of tube feeds at 70
   (goal of 90)..  Historically extremely labile FS's.
   - Cont Humolog Insulin Sliding Scale with Lantus will given 20 [**Hospital1 **]
   while increasing TFs to goal. (Insulin Recs most recently 40 units QAM,
   50 units QPM)
   - Consult [**Last Name (un) 276**] today for pt follow-up
   .
   # Intra-abdominal Abcess: Continues to drain, but with smaller amounts.
   Surgery aware and will quantify drainage and pull drain in a few days.
   - Cont  Linezolid 600mg IV q12 14 days after drain removed per ID recs
   .
   # UTI: Stable. [**11-21**] Culture growing VRE in >100K colonies.
   - Covering with Linezolid while treating intra-abdominal abcess
   .
   # SMV Thrombosis: INR 3.0 today (goal [**3-18**]).  In setting of recent
   Levaquin, now Linezolid. No signs of active bleeding.
   - Will restart Coumadin with goal of [**3-18**]
   - Daily monitoring of INR
   .
   # Wounds: Sacral Decub Likely stage 4 with increased drainage., Ventral
   wound intact with good granulation.
   - Frequent checks
   - Wound nursing
   - ESR and CRP elevated and although nonspecific will consider osteo and
   plain films
   - Will likely need both plastics consult and/or further imaging of
   sacral decub following d/c from unit.
   .
   # Bilateral Thalamic and L Cerebral Peduncle CVAs
   - Stable per most recent CT
   .
   # FEN: KVO/ Replete PRN  with q4 flushes/  TF at 70/hr recs per
   Nutrition.
   # Access: R IJ ([**11-20**])
   # PPx: H2 Blocker, Therpaeutic INR
   # Full Code
   # Disp: MICU Called-out today
   # Communication: Sister [**Name (NI) 3373**], Daughter
   ICU [**Name2 (NI) **]
   Nutrition:
   Replete with Fiber (Full) - [**2192-11-26**] 04:57 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-11-21**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 5951**]
s note above and
   agree with the findings and plan of care.  I would add the following:
   Mr [**Known lastname 3971**] continues to hold his own from a respiratory standpoint,
   coughing well and raising sputum with is growing, not surprisingly
   MRSA.  This MRSA bronchitis continues to be treated with Linezolid.
   His TFs will today be up to full, and we will ask [**Last Name (un) 276**] to assist us
   in the control of this brittle diabetic
s glucoses.  For now we will
   continue NG feedings
   He still has a dense right hemiplegia.  He remains alert, and seems
   less confused than yesterday, but is still quite far off the mark from
   what his sister says is his recent post CVA baseline. I suspect this is
   due to his recent anoxic event, ongoing infection, and wide swings in
   his BS
   His sacral decubitus may well be to the point of causing sacral
   osteomyelitis.  We will ask Plastic Surgery to advise us on what
   further can be done for this.
   We appreciate surgery service following the pt with us and advising
   when to d/c abdominal drain.
   All in all, patient is stable and able to be cared for on the floor.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   40 min spent in the care of this critically ill patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2192-11-26**] 15:18 ------